US04008278
An aqueous solution of o-aminobenzotrifluoride hydrochloride was prepared by the addition of o-aminobenzotrifluoride (1 mole; 161.1 grams) to 37% hydrochloric acid (10.8 moles; 1232 grams) at 24° C-36° C. Hydrogen peroxide (35.3%; 1.18 moles; 113.7 grams) was added dropwise over a 0.5 hour period (initial temp., 29° C; final temp. 81° C) and then maintained at 70° C-80° C for an additional 0.5 hour period. The acidic solution was neutralized with 50% sodium hydroxide (pH 10) and the contents steam distilled to give 198.0 grams of an organic product, wt. 198.0 grams.

reactant | o-aminobenzotrifluoride | 1 mole, 161.1 grams | NC1=C(C=CC=C1)C(F)(F)F | C7H6F3N
reactant | hydrochloric acid | 10.8 moles, 1232 grams | Cl | ClH
reactant | Hydrogen peroxide | 1.18 moles, 113.7 grams | OO | H2O2
reactant | sodium hydroxide | pH 10 | [OH-].[Na+]
product | o-aminobenzotrifluoride hydrochloride | Cl.NC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C7H6F3N.ClH/c8-7(9,10)5-3-1-2-4-6(5)11;/h1-4H,11H2;1H
